US09216980B2
3-[4-(4-Methylpiperazin-1-yl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid
A degassed mixture of 3-bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid (37.7 mg, 0.13 mmol), 4-(4-methylpiperazin-1-yl)phenylboronic acid, pinacol ester (58.5 mg, 0.194 mmol) and bis(triphenylphosphine)palladium(II) dichloride (4.5 mg, 6.4 μmol) in acetonitrile (2 mL) and aqueous sodium carbonate solution (2 mL) was heated under microwave irradiation at 140° C. for 10 minutes. The cooled reaction mixture was acidified with 10% aqueous sulfuric acid, filtered, and the crude solution was purified by preparative HPLC (0-30% MeCN over 30 min, 35 mL/min) to afford the title compound. 1H NMR (DMSO-D6, 400 MHz): 12.62 (s, 1H), 9.66 (s, 1H), 9.14-8.95 (m, 4H), 7.77 (d, J=8.7 Hz, 2H), 7.18 (d, J=8.9 Hz, 2H), 3.97 (d, J=13.4 Hz, 2H), 3.55 (d, J=11.6 Hz, 2H), 3.20 (q, J=11.1 Hz, 2H), 3.04 (t, J=11.9 Hz, 2H), 2.89 (s, 3H). LCMS (Method D): RT=5.09 min, M+H+=388.

reactant | 3-bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid | 0.13 mmol, 37.7 mg | BrC1=CC2=C(NC3=C2C=C(N=C3)C(=O)O)N=C1 | C11H6BrN3O2
reactant | 4-(4-methylpiperazin-1-yl)phenylboronic acid | CN1CCN(CC1)C1=CC=C(C=C1)B(O)O | C11H17BN2O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | sodium carbonate | 2 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 6.4 μmol, 4.5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-[4-(4-Methylpiperazin-1-yl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid | CN1CCN(CC1)C1=CC=C(C=C1)C1=CC2=C(NC3=C2C=C(N=C3)C(=O)O)N=C1 | C22H21N5O2
